R2 (VOUT1 net24) resistor
R1 (net3 net21) resistor
R0 (VOUT1 net3) resistor
Q0 (net24 net24 VSS 0) npn
Q1 (net21 net21 VSS 0) npn
M8 (net13 VB2 net28 VDD) pmos4
M7 (net17 VB3 VDD VDD) pmos4
M6 (net28 VB3 VDD VDD) pmos4
M0 (VOUT1 VB2 net17 VDD) pmos4
M9 (net39 net13 VSS VSS) nmos4
M5 (net13 VB1 net39 VSS) nmos4
M4 (net40 net13 VSS VSS) nmos4
M3 (VOUT1 VB1 net40 VSS) nmos4
M2 (net17 net3 IB1 VSS) nmos4
M1 (net28 net24 IB1 VSS) nmos4