M16 (IOUT2 net38 VSS VSS) nmos4
M15 (net38 net38 VSS VSS) nmos4
M12 (net35 net35 VSS VSS) nmos4
M11 (IOUT1 net35 VSS VSS) nmos4
M8 (IB1 IB1 VSS VSS) nmos4
M7 (net32 IB1 VSS VSS) nmos4
M6 (net015 IB1 VSS VSS) nmos4
M14 (net015 net015 VDD VDD) pmos4
M13 (net38 net015 VDD VDD) pmos4
M10 (net32 net32 VDD VDD) pmos4
M9 (net35 net32 VDD VDD) pmos4