R0 (VDD net6) resistor
Q4 (net6 net6 VSS 0) npn
Q0 (IOUT1 net6 VSS 0) npn
Q1 (net6 net6 VSS 0) npn
Q3 (IOUT1 net6 VSS 0) npn
Q2 (IOUT1 net6 VSS 0) npn