D0 (net19 net27) diode
D1 (net27 net14) diode
D3 (VDD net13) diode
R1 (VOUT1 VSS) resistor
R0 (net13 VSS) resistor
Q1 (net23 net14 VOUT1 0) pnp
Q2 (net19 net13 VDD 0) pnp
Q4 (net14 VIN1 VSS 0) npn
Q3 (VOUT1 net23 VSS 0) npn
Q0 (VDD net19 VOUT1 0) npn