Q1 (net5 net8 VOUT1 0) npn
Q0 (VDD net5 net8 0) npn
Q2 (net5 VB1 VDD 0) pnp
Q3 (VSS VIN1 net3 0) pnp
Q4 (VSS net3 net20 0) pnp
R2 (net8 VOUT1) resistor
R0 (VOUT1 net20) resistor
R1 (VOUT1 VSS) resistor
D0 (net5 net21) diode
D1 (net21 net3) diode