M22 (VIN2 VB1 VDD VDD) pmos4
M0 (net138 net138 VDD VDD) pmos4
M1 (net150 net138 VDD VDD) pmos4
M5 (VOUT1 net150 VDD VDD) pmos4
M4 (IB1 net138 VDD VDD) pmos4
M3 (VSS IB1 net138 VDD) pmos4
M2 (VSS IB1 net150 VDD) pmos4
M11 (net134 VOUT1 IB3 VDD) pmos4
M10 (net141 VIN2 IB3 VDD) pmos4
M18 (VSS net124 VOUT1 VDD) pmos4
M17 (net124 net124 VIN2 VDD) pmos4
M16 (net123 VB1 VDD VDD) pmos4
M23 (VIN2 VIN1 VSS VSS) nmos4
M7 (net138 VOUT1 IB2 VSS) nmos4
M6 (net150 VIN2 IB2 VSS) nmos4
M9 (VDD IB4 net141 VSS) nmos4
M8 (VDD IB4 net134 VSS) nmos4
M14 (IB4 net134 VSS VSS) nmos4
M15 (VOUT1 net141 VSS VSS) nmos4
M13 (net141 net134 VSS VSS) nmos4
M12 (net134 net134 VSS VSS) nmos4
M21 (net124 VIN1 VSS VSS) nmos4
M20 (VDD net123 VOUT1 VSS) nmos4
M19 (net123 net123 VIN2 VSS) nmos4
C0 (net150 VOUT1) capacitor
C1 (VOUT1 net141) capacitor