M36 (net023 net021 net0100 VDD) pmos4
M35 (net021 net021 net029 VDD) pmos4
M34 (net0100 net029 VDD VDD) pmos4
M33 (net029 net029 VDD VDD) pmos4
M32 (net09 net09 net034 VDD) pmos4
M31 (net034 net09 VDD VDD) pmos4
M30 (net064 net029 VDD VDD) pmos4
M27 (net073 net82 net064 VDD) pmos4
M26 (net059 net025 net064 VDD) pmos4
M23 (net049 net81 net041 VDD) pmos4
M22 (net036 net025 net041 VDD) pmos4
M21 (net041 net029 VDD VDD) pmos4
M20 (net066 net066 VDD VDD) pmos4
M19 (net87 net066 VDD VDD) pmos4
M12 (net050 net040 VDD VDD) pmos4
M11 (net040 net040 VDD VDD) pmos4
M5 (net86 net050 net78 VDD) pmos4
M0 (net75 net029 VDD VDD) pmos4
M6 (VOUT1 net87 net88 VDD) pmos4
M4 (net78 net78 VDD VDD) pmos4
M3 (net88 net78 VDD VDD) pmos4
M2 (net82 VIN2 net75 VDD) pmos4
M1 (net81 VIN1 net75 VDD) pmos4
M44 (net025 net023 VSS VSS) nmos4
M43 (net0101 net062 VSS VSS) nmos4
M42 (net0102 net062 VSS VSS) nmos4
M41 (net062 net062 VSS VSS) nmos4
M40 (net023 net023 net025 VSS) nmos4
M39 (net021 IB1 net0101 VSS) nmos4
M38 (net09 IB1 net0102 VSS) nmos4
M37 (IB1 IB1 net062 VSS) nmos4
M29 (net059 net059 VSS VSS) nmos4
M28 (net073 net059 VSS VSS) nmos4
M25 (net036 net036 VSS VSS) nmos4
M24 (net049 net036 VSS VSS) nmos4
M18 (net066 net034 net068 net0103) nmos4
M17 (net87 net88 net068 net0103) nmos4
M16 (net068 net062 VSS VSS) nmos4
M15 (net044 net062 VSS VSS) nmos4
M14 (net050 net78 net044 net0104) nmos4
M13 (net040 net034 net044 net0104) nmos4
M10 (net82 net062 VSS VSS) nmos4
M9 (net81 net062 VSS VSS) nmos4
M8 (VOUT1 net073 net82 VSS) nmos4
M7 (net86 net049 net81 VSS) nmos4
C4 (net073 VSS) capacitor
C3 (net049 VSS) capacitor
C2 (VDD net87) capacitor
C1 (VDD net050) capacitor
C0 (VOUT1 VSS) capacitor