R4 (net17 VSS) resistor
R3 (net14 VSS) resistor
R2 (VDD net23) resistor
R1 (VDD net24) resistor
R0 (VDD net25) resistor
Q4 (net17 VIN1 net9 0) pnp
Q3 (net14 VIN2 net9 0) pnp
Q2 (VOUT2 VB1 net23 0) pnp
Q1 (VOUT1 VB1 net24 0) pnp
Q0 (net9 VB1 net25 0) pnp
Q6 (VOUT2 VB2 net17 0) npn
Q5 (VOUT1 VB2 net14 0) npn