R5 (net43 VSS) resistor
R0 (VDD net44) resistor
R4 (net40 VSS) resistor
R3 (net38 VSS) resistor
R2 (VDD net37) resistor
R1 (VDD net36) resistor
Q4 (net40 VIN1 net29 0) pnp
Q3 (net38 VIN2 net29 0) pnp
Q2 (VOUT2 VB1 net37 0) pnp
Q1 (VOUT1 VB1 net36 0) pnp
Q0 (net29 VB1 net44 0) pnp
Q9 (net28 VB3 net43 0) npn
Q8 (net36 VIN4 net28 0) npn
Q7 (net37 VIN3 net28 0) npn
Q6 (VOUT2 VB2 net40 0) npn
Q5 (VOUT1 VB2 net38 0) npn