R5 (net25 VSS) resistor
R4 (net16 VSS) resistor
R3 (VDD net29) resistor
R2 (VDD net30) resistor
R1 (VDD net28) resistor
R0 (VDD net31) resistor
Q10 (VSS net15 net7 0) pnp
Q5 (VSS net16 VB1 0) pnp
Q4 (net15 net16 net27 0) pnp
Q3 (VB1 VB1 net30 0) pnp
Q2 (net14 VB1 net29 0) pnp
Q1 (net7 VB1 net28 0) pnp
Q0 (net27 VB1 net31 0) pnp
Q13 (net26 VB2 net25 0) npn
Q12 (net16 VB2 VSS 0) npn
Q11 (VB2 VB2 VSS 0) npn
Q9 (net15 VB2 VSS 0) npn
Q8 (net14 net7 net26 0) npn
Q7 (VDD net7 VB2 0) npn
Q6 (VDD net14 net16 0) npn
C1 (net15 VSS) capacitor
C0 (VDD net14) capacitor