Q0 (VB1 VB1 net14 0) pnp
Q3 (net15 VB1 VB2 0) npn
Q2 (VB2 VB2 VSS 0) npn
Q1 (VB1 VB2 net16 0) npn
R2 (net16 VSS) resistor
R1 (VDD net15) resistor
R0 (VDD net14) resistor