R8 (net36 VSS) resistor
R7 (net35 VSS) resistor
R6 (net34 VSS) resistor
R5 (net33 VSS) resistor
R4 (net32 VSS) resistor
R3 (VDD net40) resistor
R2 (VDD net37) resistor
R1 (VDD net38) resistor
R0 (VDD net39) resistor
Q13 (net36 net15 net13 0) pnp
Q12 (net13 VIN3 VOUT2 0) pnp
Q11 (net13 VIN4 VOUT1 0) pnp
Q6 (VOUT3 VIN2 net22 0) pnp
Q5 (net15 net19 net22 0) pnp
Q4 (VOUT4 VIN1 net22 0) pnp
Q3 (net30 VB1 net37 0) pnp
Q2 (net31 VB1 net38 0) pnp
Q1 (net19 VB1 net39 0) pnp
Q0 (net22 VB1 net40 0) pnp
Q10 (net15 net15 net35 0) npn
Q9 (net19 net19 net34 0) npn
Q8 (net31 VB2 net33 0) npn
Q7 (net30 VB2 net32 0) npn