Q12 (VSS VSS net29 0) pnp
Q7 (VSS IB1 IB3 0) pnp
Q6 (VSS net24 IB3 0) pnp
Q4 (VSS IB2 net27 0) pnp
Q1 (net24 net27 net33 0) pnp
Q0 (VOUT1 net27 VDD 0) pnp
R4 (net32 VSS) resistor
R3 (net30 IB4) resistor
R2 (net31 IB4) resistor
R1 (VDD net33) resistor
R0 (VDD net27) resistor
Q11 (IB5 IB5 net29 0) npn
Q10 (net23 IB3 net30 0) npn
Q9 (net22 IB5 net31 0) npn
Q8 (net24 net24 net32 0) npn
Q5 (VOUT1 IB1 VSS 0) npn
Q3 (VDD net22 IB2 0) npn
Q2 (VDD net23 IB1 0) npn