R12 (net37 VSS) resistor
R11 (net38 VSS) resistor
R10 (net24 VSS) resistor
R9 (net39 VSS) resistor
R6 (net40 net14) resistor
R5 (VDD net23) resistor
R4 (VDD net41) resistor
R3 (VDD net42) resistor
R2 (VDD net43) resistor
R1 (VDD net44) resistor
R0 (VDD net45) resistor
Q18 (net28 VIN2 VDD 0) pnp
Q17 (net27 VIN1 VDD 0) pnp
Q13 (VSS net27 net19 0) pnp
Q10 (VSS net28 net13 0) pnp
Q7 (net24 net23 VDD 0) pnp
Q6 (VSS net22 net23 0) pnp
Q4 (net19 VDD net41 0) pnp
Q3 (net14 VDD net42 0) pnp
Q2 (net13 VDD net43 0) pnp
Q1 (net27 VDD net44 0) pnp
Q0 (net28 VDD net45 0) pnp
Q16 (net27 VSS net37 0) npn
Q15 (net28 VSS net38 0) npn
Q14 (net22 VSS net39 0) npn
Q12 (VDD net19 VSS 0) npn
Q11 (net14 net13 VSS 0) npn
Q5 (VDD net14 net22 0) npn
C3 (net28 VSS) capacitor
C2 (net24 net27) capacitor
C1 (net24 net40) capacitor
C0 (net24 net22) capacitor