M3 (VOUT1 VB1 net18 VDD) pmos4
M2 (net5 VB1 net19 VDD) pmos4
M1 (net18 net5 VDD VDD) pmos4
M0 (net19 net5 VDD VDD) pmos4
M7 (net16 VIN2 net4 VSS) nmos4
M6 (net17 VIN1 net4 VSS) nmos4
M5 (VOUT1 VB2 net16 VSS) nmos4
M4 (net5 VB2 net17 VSS) nmos4
R0 (net4 VSS) resistor
C0 (VOUT1 VSS) capacitor