R1 (VOUT2 VDD) resistor
R0 (VOUT1 VDD) resistor
R2 (net07 VOUT1) resistor
M2 (VOUT2 VIN2 net07 VSS) nmos4
M0 (VOUT1 VIN1 net07 VSS) nmos4
M1 (net07 VB1 VSS VSS) nmos4