M7 (net36 net18 net31 VSS) nmos4
M6 (net18 net18 net33 VSS) nmos4
M5 (VREF1 net27 net32 VDD) pmos4
M4 (net32 net36 VDD VDD) pmos4
M0 (net37 net36 VDD VDD) pmos4
M3 (net18 net27 net37 VDD) pmos4
M1 (net35 net36 VDD VDD) pmos4
M2 (net36 net27 net35 VDD) pmos4
R1 (VREF1 net30) resistor
R0 (net31 net34) resistor
D2 (net30 VSS) diode
D1 (net33 VSS) diode
D0 (net34 VSS) diode