Q5 (net5 net5 net17 0) npn
Q4 (net15 net15 VREF1 0) npn
Q3 (net6 net6 net5 0) npn
Q2 (VDD VDD net15 0) npn
Q1 (IB1 VDD net6 0) npn
Q0 (VDD IB1 VDD 0) npn
R1 (VREF1 VSS) resistor
R0 (net17 VSS) resistor