M1 (IOUT1 net12 VDD VDD) pmos4
M0 (net12 net12 VDD VDD) pmos4
M5 (IIN2 VB1 VSS VSS) nmos4
M4 (IIN1 VB1 VSS VSS) nmos4
M3 (IOUT1 VB2 IIN2 VSS) nmos4
M2 (net12 VB2 IIN1 VSS) nmos4