M7 (net26 VB2 VDD VDD) pmos4
M6 (net16 VB2 VDD VDD) pmos4
M4 (net12 net23 net36 VDD) pmos4
M3 (VOUT1 net23 net29 VDD) pmos4
M2 (net23 net29 VDD VDD) pmos4
M1 (net29 net12 VDD VDD) pmos4
M0 (net36 net12 VDD VDD) pmos4
M16 (net13 VB1 VSS VSS) nmos4
M15 (net13 VB1 VSS VSS) nmos4
M14 (net28 VIN2 net13 VSS) nmos4
M13 (net26 net28 net13 VSS) nmos4
M12 (VOUT1 net26 net28 VSS) nmos4
M11 (net8 VIN1 net13 VSS) nmos4
M9 (net16 net8 net13 VSS) nmos4
M8 (net12 net16 net8 VSS) nmos4
M5 (net23 VB1 VSS VSS) nmos4