// Library name: Dataset
// Cell name: INVERTER
// View name: schematic
subckt INVERTER A Q VDD VSS
    M0 (Q A VDD VDD) pmos4
    M1 (Q A VSS VSS) nmos4
ends INVERTER
// End of subcircuit definition.

// Library name: Dataset
// Cell name: TRANSMISSION_GATE
// View name: schematic
subckt TRANSMISSION_GATE A B C VDD VSS
    M0 (A net8 B VDD) pmos4
    M1 (A C B VSS) nmos4
    I0 (C net8 VDD VSS) INVERTER
ends TRANSMISSION_GATE
// End of subcircuit definition.

// Library name: Dataset
// Cell name: 1000
// View name: schematic
M9 (VOUT1 net17 net36 VDD) pmos4
M8 (net17 net17 net16 VDD) pmos4
M1 (net36 net37 VDD VDD) pmos4
M0 (net16 net16 VDD VDD) pmos4
M11 (VOUT1 net17 net35 VSS) nmos4
M10 (net17 net17 net10 VSS) nmos4
M7 (net35 net34 VSS VSS) nmos4
M6 (net10 net10 VSS VSS) nmos4
C1 (net20 net19) capacitor
C0 (net21 net20) capacitor
I5 (net19 net34 VCLK2 VDD VSS) TRANSMISSION_GATE
I4 (net10 net19 VCLK1 VDD VSS) TRANSMISSION_GATE
I6 (VIN1 net20 VCLK1 VDD VSS) TRANSMISSION_GATE
I2 (VIN2 net20 VCLK2 VDD VSS) TRANSMISSION_GATE
I1 (net21 net37 VCLK2 VDD VSS) TRANSMISSION_GATE
I0 (net16 net21 VCLK1 VDD VSS) TRANSMISSION_GATE